US08183380B2
Step B: rac-(7-Methoxy-indan-1-yl)-(6-nitro-quinolin-2-yl)-amine:
A mixture of 2-chloro-6-nitro-quinoline (1.8 g, 8.62 mmol) in 1-methyl-2-pyrrolidone (5 mL) with the above described 7-methoxy-indan-1-ylamine (1.69 g, 10.35 mmol) and N-ethyldiisopropylamine (2.22 mL, 12.94 mmol) was stirred at 140° C. for 2 h. Cooled to 23° C., poured onto water and extracted twice with ethyl acetate, dried over Na2SO4 and evaporated totally to give a crude product which was purified by silica gel column chromatography with heptane/dichloromethane followed by trituration with diethyl ether to give the title compound as a yellow solid (2.3 g, 80%); MS: m/e=336.3 (M+H+).

reactant | 2-chloro-6-nitro-quinoline | 8.62 mmol, 1.8 g | ClC1=NC2=CC=C(C=C2C=C1)[N+](=O)[O-] | C9H5ClN2O2
reactant | 7-methoxy-indan-1-ylamine | 10.35 mmol, 1.69 g | COC=1C=CC=C2CCC(C12)N | C10H13NO
reactant | N-ethyldiisopropylamine | 12.94 mmol, 2.22 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | 1-methyl-2-pyrrolidone | 5 mL | CN1C(CCC1)=O | C5H9NO
product | rac-(7-Methoxy-indan-1-yl)-(6-nitro-quinolin-2-yl)-amine | 2.3 g, 80% | COC=1C=CC=C2CCC(C12)NC1=NC2=CC=C(C=C2C=C1)[N+](=O)[O-] | C19H17N3O3
